US08404866B2
(3S,4S)-3-(4-Phenoxybenzenesulfonamido)-4-mercaptopyrrolidine Hydrochloride. A solution of (3S,4S)—N-Boc-3-azido-4-hydroxypyrrolidine (850 mg, 3.72 mmol) and triethylamine (622 μL, 4.46 mmol) in CH2Cl2 (10 mL) was cooled with stirring to 0° C., and methanesulfonyl chloride (331 μl, 4.28 mmol) was added dropwise. The solution was stirred at room temperature until no starting material was detected by TLC (25% ethyl acetate in hexane). The reaction mixture was washed with 10% aq. citric acid, water, dried over Na2SO4 and evaporated. The residual crude methanesulfonate was dissolved in anhydrous DMF (20 mL), potassium acetate (1.10 g, 11.2 mmol) was added, and the mixture was stirred at 105° C. under nitrogen for 6 hr. The reaction mixture was poured into ice water and was extracted with ethyl acetate (20 ml×3). The organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (25% ethyl acetate in hexane) to give (3S,4R)—N-Boc-3-azido-4-acetoxypyrrolidine (860 mg, 86%): 1H NMR (300 MHz, CDCl3) δ 5.31 (br m, 1H), 4.07 (m, 1H), 3.60-3.71 (m, 2H), 3.36-3.50 (m, 2H), 2.16 (s, 3H), 1.46 (s, 9H); [α]20D=−34.5° (c=1.00, CHCl3).

reactant | (3S,4S)-3-(4-Phenoxybenzenesulfonamido)-4-mercaptopyrrolidine Hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N[C@H]1CNC[C@@H]1S
reactant | (3S,4S)—N-Boc-3-azido-4-hydroxypyrrolidine | 3.72 mmol, 850 mg | C(=O)(OC(C)(C)C)N1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C9H16N4O3
reactant | triethylamine | 4.46 mmol, 622 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.28 mmol, 331 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium acetate | 11.2 mmol, 1.10 g | C(C)(=O)[O-].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4R)—N-Boc-3-azido-4-acetoxypyrrolidine | 860 mg, 86% | C(=O)(OC(C)(C)C)N1C[C@@H]([C@@H](C1)OC(C)=O)N=[N+]=[N-] | C11H18N4O4
